US05077288
Ethyl 2-acetyl-4-[4-(4-fluorobenzoyl)piperidino]-butyrate
A solution of 5.45 g of ethyl acetoacetate in 20 ml of tetrahydrofuran is added at 0° C. to a suspension of 1.68 g of sodium hydride at a concentration of 60% in oil in 100 ml of anhydrous tetrahydrofuran. The medium is maintained at 20° C. for 1 hour 30 minutes. 6.3 g of sodium iodide are added, followed by the addition at 0° C. of 11.3 g of 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine in 100 ml of tetrahydrofuran. The reaction mixture is brought to reflux for 15 hours. It is concentrated under vacuum. The residue is taken up in water and the product is extracted with dichloromethane.

reactant | ethyl acetoacetate | 5.45 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 1.68 g | [H-].[Na+]
reactant | sodium iodide | 6.3 g | [I-].[Na+]
reactant | 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine | 11.3 g | ClCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H17ClFNO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 2-acetyl-4-[4-(4-fluorobenzoyl)piperidino]-butyrate | C(C)(=O)C(C(=O)OCC)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C20H26FNO4
